### PR TITLE
[Merged by Bors] - feat: the index of Fredholm operators is locally constant

### PR DESCRIPTION
**Pull request by ADedecker**
---

- [x] depends on: #42742 
- [x] depends on: #43146 
- [x] depends on: #43147 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LinearMap/Index.lean
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean:1]: splice-bot

File: Mathlib/Analysis/Normed/Operator/BoundedLinearMaps.lean
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Operator/BoundedLinearMaps.lean:1]: splice-bot

File: Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean [hunk 1]
```diff
@@ -594,6 +595,32 @@ alias ⟨IsFredholm.of_codRestrict, IsFredholm.codRestrict⟩ := isFredholm_codR
...
+-/
+
+lemma IsFredholm.index_comp {g : F →L[𝕜] G} {f : E →L[𝕜] F}
+    (hg : IsFredholm g) (hf : IsFredholm f) :
+    (g ∘L f).index = g.index + f.index :=
+  have := hf.finite_ker
+  have := hf.finite_coker
+  have := hg.finite_ker
+  have := hg.finite_coker
+  LinearMap.index_comp _ _
```
Comment (ocfnash) [inline Mathlib/Analysis/Normed/Operator/Fredholm/Basic.lean:620]: Bearing in mind your comment above (and our brief discussion in DM) I really do think this is the right compromise.

File: Mathlib/Analysis/Normed/Operator/Fredholm/Open.lean [hunk 2]
```diff
@@ -50,22 +53,56 @@ theorem FredholmPackage.eventually_nhds_isInvertible
...
+
+/-- If `T₀` is a Fredholm operator between two Banach spaces, then every operator `T` close
+enough to `T₀` (in operator norm) is also Fredholm. -/
+protected theorem IsFredholm.eventually_nhds [CompleteSpace 𝕜]
+    {T₀ : E →L[𝕜] F} (hT₀ : T₀.IsFredholm) : ∀ᶠ T in 𝓝 T₀, T.IsFredholm := by
+  obtain ⟨pkg⟩ := hT₀.nonempty_fredholmPackage
+  exact pkg.eventually_nhds_isFredholm_and_index_eq.mono fun T ⟨T_fred, _⟩ ↦ T_fred
 
-/-- The set of Fredholm operators between two Banach spaces is open (for the operator norm)
+/-- The set of Fredholm operator between two Banach spaces is open (for the operator norm)
```
Comment (ocfnash) [inline Mathlib/Analysis/Normed/Operator/Fredholm/Open.lean]:
```suggestion
/-- The set of Fredholm operators between two Banach spaces is open (for the operator norm)
```

**Review by ocfnash — APPROVED** [review]
Amazing!

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/Analysis/Normed/Operator/Fredholm/Open.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Analysis/Normed/Operator/Fredholm/Open.lean]: :facepalm:
